US05039706
4-Fluoro-α-(2-[2-(2-naphthalenyl)ethylamino]ethyl)benzenemethanamine Dihydrochloride
A solution of 3-chloro-4'-fluoropropiophenone (9.3 g, 0.05 mole) in 100 ml THF was treated with triethylamine (5.6 g, 0.055 mole) and stirred at room temperature for one hour. The mixture was treated with 2-naphthaleneethylamine hydrochloride (10.4 g, 0.05 mole) and refluxed for six hours. The reaction mixture was cooled to room temperature, and the resulting crystals were collected by filtration, washed with THF, ether, and water; and dried to give the title compound as a homogeneous product by tlc (chloroform-methanol, 9:1) (96%, 17.2 g); mp 208°-210° C.; IR(nujol): C=O @ 1675 cm-1 ; NMR(DMSO-d6, TMS): δ 3.20(t,2H, CH2 --CO), 3.37(m,4H,Ar--CH2 --CH2), 3.60(t,2H,N--CH2) [7.3-7.6(m,5H), 7.7-7.8(m,2H), 8.10(m,2H) aromatic]; Anal. Found: C,70.37; H,5.92; N,3.81. Mass spectrum m/e 321,184.

reactant | 3-chloro-4'-fluoropropiophenone | 0.05 mole, 9.3 g | ClCCC(=O)C1=CC=C(C=C1)F | C9H8ClFO
reactant | triethylamine | 0.055 mole, 5.6 g | C(C)N(CC)CC | C6H15N
reactant | 2-naphthaleneethylamine hydrochloride | 0.05 mole, 10.4 g | Cl.C1=C(C=CC2=CC=CC=C12)CCN
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-Fluoro-α-(2-[2-(2-naphthalenyl)ethylamino]ethyl)benzenemethanamine Dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C(N)CCNCCC1=CC2=CC=CC=C2C=C1 | InChI=1S/C21H23FN2.2ClH/c22-20-9-7-18(8-10-20)21(23)12-14-24-13-11-16-5-6-17-3-1-2-4-19(17)15-16;;/h1-10,15,21,24H,11-14,23H2;2*1H
